US07238724B2
methyl (5R)-1-(chloroacetyl)-5-((trimethylsilyl)ethynyl)-L-prolinate
To a stirred solution of methyl (5R)-5-((trimethylsilyl)ethynyl)-L-prolinate (2.76 g, 12.2 mmol) and triethylamine (2.13 mL, 15.3 mmol) in dry tetrahydrofuran (50 mL ) at 0° C. was gradually added a solution of chloroacetyl chloride (0.97 mL, 12.2 mmol) in dry tetrahydrofuran (10 mL). After stirring at room temperature for 2 hours, the mixture was filtered. The solid cake was washed with THF, and the filtrate and washings were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue taken up in toluene and concentrated to dryness under reduced pressure to provide the titled compound. MS (CI) m/z 302 (M+1)+.

reactant | methyl (5R)-5-((trimethylsilyl)ethynyl)-L-prolinate | 12.2 mmol, 2.76 g | C[Si](C)(C)C#C[C@H]1CC[C@H](N1)C(=O)OC | C11H19NO2Si
reactant | triethylamine | 15.3 mmol, 2.13 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 12.2 mmol, 0.97 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl (5R)-1-(chloroacetyl)-5-((trimethylsilyl)ethynyl)-L-prolinate | ClCC(=O)N1[C@H](C(=O)OC)CC[C@@H]1C#C[Si](C)(C)C | C13H20ClNO3Si
